US05272270
rel-(1S,2R)-1,2-bis(3'-Benzyloxy-4'-methoxyphenyl)-2-[(2",2"-dimethoxyethyl)-methyl-amino]ethanol
Mixture: 51.7 g (0.11 mol) of rel-(S,S)-3,3'-dibenzyloxy-4,4'-dimethoxystilbene oxide, 1800 ml of dichloromethane, 100 ml of 2-butanol, 25 ml (0.19 mol) of methylaminoacetaldehyde dimethyl acetal, 5 g of silica gel

reactant | rel-(S,S)-3,3'-dibenzyloxy-4,4'-dimethoxystilbene oxide | 0.11 mol, 51.7 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1OC)[C@H]1[C@H](C2=CC(=C(C=C2)OC)OCC2=CC=CC=C2)O1 | C30H28O5
reactant | dichloromethane | 1800 ml | ClCCl | CH2Cl2
reactant | methylaminoacetaldehyde dimethyl acetal | 0.19 mol, 25 ml | COC(CNC)OC | C5H13NO2
solvent | 2-butanol | 100 ml | CC(CC)O | C4H10O
product | rel-(1S,2R)-1,2-bis(3'-Benzyloxy-4'-methoxyphenyl)-2-[(2",2"-dimethoxyethyl)-methyl-amino]ethanol | C(C1=CC=CC=C1)OC=1C=C(C=CC1OC)[C@@H]([C@H](N(C)CC(OC)OC)C1=CC(=C(C=C1)OC)OCC1=CC=CC=C1)O | C35H41NO7
